Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
DOE
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ ___ G3P3 female with 
RA and HTN who presented to her PCP  ___ at ___ 
___) with dyspnea on exertion, was found to 
be anemic (Hgb 5.3) and was sent to the ED for further 
evaluation/treatment.

She has experienced dyspnea on exertion for the last 7 months. 
It has not been progressive but has been stable since it 
started. While she was in ___ (she immigrated to the ___ 4 
months ago) she said she had imaging that showed her heart was 
enlarged. She also gets back pain in the left upper back with 
exertion, but no chest pain or palpitations. She gets lower 
extremity edema at times that she associates with joint 
pain/flares of her RA. No PND or orthopnea. She has gained about 
5 kg over the last year. 

For the last year, she has been having heavier menstrual periods 
that last longer. The frequency of her periods has not changed 
(they are still once every 4 weeks). Prior to a year ago, her 
periods would last 3 days, and now they last 7 days. She says 
she never went through menopause/never stopped having periods. 
She denies black/bloody stools, hematuria, hemoptysis, and 
hematemesis. No lightheadedness/dizziness. 

About ___ year ago, she was treated for an intestinal parasite 
infection in ___, but they told her that they did not 
completely eradicate the infection (they said they got the "tail 
but not the head"). She has not seen any worms/parasites in her 
stool, but she notes that she never saw them before when she was 
treated for the infection a year ago. She denies abdominal pain, 
nausea, vomiting, and diarrhea. She typically has one formed 
bowel movement in the morning and this has been unchanged. She 
has been eating/drinking normally. No weight loss (gained 5 kg). 
No fevers/chills/night sweats.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
# Rheumatoid arthritis vs gout - she says her whole body is 
affected; no particular joints tend to flare
# HTN - recently started on treatment
# Possible cardiomegaly
# DM
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization. 
 
Physical Exam:
EXAM ON ADMISSION - UNCHANGED AT DISCHARGE
VITALS: T98.1, HR 73, BP 133/73, RR 14, SpO2 98% on RA // AVSS 
ON DISCHARGE
GENERAL: Alert, NAD, well-nourished, speaking in full sentences, 
appears well
EYES: Anicteric, bilateral pterygium, PERRL
ENT: MMM, OP clear
CV: NR/RR, ___ systolic murmur best auscultated over the apex 
with radiation to the axilla. JVP not elevated.
RESP: CTAB, no wheezes, crackles, or rhonchi
GI: Soft, ND, NTTP, normoactive bowel sounds, no 
hepatosplenomegaly appreciated, well healed 1 cm long surgical 
scar below the umbilicus
GU/Rectal: Guaiac-negative brown stool
MSK: Neck supple, moves all extremities
VASC: fingertip pitting edema in ___ bilaterally; 2+ ___ pulses 
bilaterally
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
LABS THIS ADMISSION

___ 12:07AM BLOOD WBC-9.4 RBC-4.43 Hgb-5.1* Hct-18.6* 
MCV-42* MCH-11.5* MCHC-27.4* RDW-28.6* RDWSD-UNABLE TO  Plt 
___
___ 07:24AM BLOOD WBC-8.1 RBC-5.50* Hgb-7.8* Hct-27.5* 
MCV-50* MCH-14.2* MCHC-28.4* RDW-40.0* RDWSD-UNABLE TO  Plt 
___
___ 12:07AM BLOOD Neuts-46.9 ___ Monos-7.8 
Eos-15.0* Baso-0.4 Im ___ AbsNeut-4.41 AbsLymp-2.78 
AbsMono-0.73 AbsEos-1.41* AbsBaso-0.04
___ 05:30PM BLOOD ___ PTT-28.1 ___
___ 05:30PM BLOOD Ret Man-1.8 Abs Ret-0.10
___ 07:24AM BLOOD Glucose-115* UreaN-10 Creat-0.6 Na-137 
K-4.2 Cl-101 HCO3-25 AnGap-11
___ 03:03PM BLOOD ALT-18 AST-21 AlkPhos-77 TotBili-0.4
___ 05:30PM BLOOD LD(LDH)-205
___ 03:03PM BLOOD Albumin-4.2 UricAcd-5.3 Cholest-120
___ 05:30PM BLOOD Iron-29*
___ 07:24AM BLOOD Calcium-8.8 Phos-4.3 Mg-2.3
___ 05:30PM BLOOD calTIBC-514* ___ Ferritn-4.8* 
TRF-395*
___ 03:03PM BLOOD %HbA1c-5.4 eAG-108
___ 03:03PM BLOOD Triglyc-319* HDL-25* CHOL/HD-4.8 
LDLcalc-31
___ 12:07AM BLOOD TSH-8.5*
___ 07:24AM BLOOD Free T4-1.0
___ 03:03PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS* HAV 
Ab-POS*
___ 03:03PM BLOOD HCV Ab-NEG

MICROBIOLOGY
STOOL O&P X3 - PENDING AT ___

IMAGING AND OTHER STUDIES THIS ADMISSION
CXR No acute abnormality

Pelvic US Multiple uterine fibroids, the largest of which 
measures 6.3 cm, distort the endometrium.  Endometrial 
distortion the fibroids, however were seen appears within normal 
limits. 

TTE The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size. Overall 
left ventricular systolic function is low normal. The visually 
estimated left ventricular ejection fraction is 50%. There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal. The 
aortic valve leaflets (3) appear structurally normal. There
is no aortic valve stenosis. There is mild [1+] aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is trivial mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.
 
Brief Hospital Course:
This is a ___, newly immigrated from ___, with HTN, DM2, 
unspecified polyarticular arthritis, recent intestinal 
parasitosis NOS s/p treatment, and longstanding menorrhagia who 
presented with symptomatic anemia. 

# Dyspnea
# Fatigue
# Headache
# Symptomatic iron deficiency anemia: Laboratory workup 
consistent with iron deficiency anemia. ___ have component of 
thalassemia given MCV/RBC ratio. She responded appropriately to 
2 units pRBCs administered in the ED. Symptoms improved after 
transfusion. Cardiac/pulmonary evaluation with CXR and TTE 
unremarkable. Menorrhagia by history which is a likely cause. 
Guaiac negative here but never had EGD ___ and this is 
probably warranted given her age and history of dyspepsia. Also 
intestinal parasitosis by history which could contribute via 
iron scavenging.
- s/p 2U PRBC
- Started on QOD iron (recent study suggests QOD is equally if 
not more effective)
- Started on stool softener along with PO iron
- Encouraged to hold NSAID medications / naproxen held at 
discharge
- Referred to GI for endoscopy/eval of GI blood loss; referred 
to Gyn for eval of menorrhagia; referred to ID for eval of 
helminthic infection; all scheduled at ___ as below

# Question of intestinal helminthic infection
# Peripheral eosinophilia: She reports that she was treated for 
a parasitic intestinal infection a year ago, but was told that 
it was not eradicated. She also has a significant peripheral 
eosinophilia. The helminthic infections most likely to cause 
iron deficiency anemia are Hookworm, Whipworm, and 
Shistosomiasis. ID was curbsided in the ED agreed with holding 
off on treatment for now.
- F/u stool O&P x3
- Referred to ID for further evaluation and treatment; she 
probably warrants empiric treatment for strongyloides given her 
arthritis and the possibility she would end up on steroids

# Menorrhagia: She is ___ years old but reports that she never 
stopped having her periods/never went through menopause. Her 
bleeding is concerning for uterine malignancy. Pelvic US showed 
large fibroid uterus but otherwise reassuring endometrium. TSH 
elevated but T4 normal.
- Referred to GYN for further evaluation and treatment of 
menorrhagia

# Question of heart enlargement in setting of DOE: Likely DOE 
due to profound anemia as symptoms improved with transfusion. 
However she was told she has an enlarged heart. CXR reassuring. 
TTE reassuring as well.

# Unspecified polyarticular arthritis: She reported RA but is 
actually taking allopurinol ___ mg BID, so perhaps she actually 
has gout. She says she could not walk before she started taking 
allopurinol and has found immense benefit from this medication, 
which is also odd/atypical. Continued allopurinol ___ mg BID for 
now

# HTN: Stable. Continued home amlodipine 5 mg.

# GERD: Stable. Continue home famotidine 20 mg daily.
- She should probably have her H pylori status assessed given 
the endemic nature of this disease outside the US

# DM2: Stable. She takes metformin at home. Continued at 
discharge.

>30 minutes spent coordinating discharge home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO BID 
2. Naproxen 220 mg PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. Famotidine 20 mg PO DAILY:PRN GI upset 
5. MetFORMIN XR (Glucophage XR) Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*3 
2.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every other day Disp #*45 Tablet Refills:*0 
3.  Allopurinol ___ mg PO BID  
4.  amLODIPine 5 mg PO DAILY  
5.  Famotidine 20 mg PO DAILY:PRN GI upset  
6.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
Do Not Crush  
7. HELD- Naproxen 220 mg PO DAILY  This medication was held. Do 
not restart Naproxen until you discuss with your PCP. It can 
worsen bleeding.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Iron deficiency anemia
Menorrhagia / uterine bleeding
Possible intestinal parasitosis
Eosinophilia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with shortness of breath anemia. You were 
found to have iron deficiency and you felt much better after a 
blood transfusion (you received 2 units of red blood cells). You 
had a workup for other causes of shortness of breath which was 
reassuring. You had a workup for causes of blood loss including 
GI (no evidence of this but this requires more workup as 
outpatient), parasites (no current evidence of this but tests 
are pending and you need to see an ID specialist as outpatient), 
and menstrual blood loss (you have fibroids and you need to see 
the gynecologists as outpatient).
 
Followup Instructions:
___